US06087380
a) 2-[N-(4-Cyanophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 9e from 4-cyano-N-methyl-aniline and 2-methoxymethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide. Yield: 57% of theory, Rf value: 0.46 (silica gel; dichloromethane/ethanol=19:1).

reactant | 4-cyano-N-methyl-aniline | C(#N)C1=CC=C(NC)C=C1 | C8H8N2
reactant | 2-methoxymethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)COC)C1)CCC(=O)OCC | C21H22N2O4S
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 2-[N-(4-Cyanophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | Yield: 57% | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CN(C)C2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C28H26N4O3S
